US07026352B1
(8E,12E,14E)-7-Benzoyloxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
LiHMDS (1.0 M tetrahydrofuran solution, 81 μL, 81 μmol) was added dropwise to a solution of (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (10 mg, 14 μmol) in tetrahydrofuran (1 mL) at −40° C. under nitrogen atmosphere. After stirring at the same temperature for 15 min., a solution of benzoyl chloride (17.8 mg, 125 μmol) in tetrahydrofuran (0.4 mL) was added dropwise thereto and the mixture was stirred at 0° C. for 7 hours. Ethyl Acetate and water were added to the reaction solution, and the mixture was extracted with ethyl acetate. The resulting organic layer was dried over anhydrous magnesium sulfate, filtered and then evaporated. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 50 μm; ethyl acetate-hexane=1:4) to obtain the title compound (6.1 mg, 54%) as a colorless oil.

reactant | LiHMDS | 81 μmol, 1.0 M, 81 μL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 14 μmol, 10 mg | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C | C40H70O10
reactant | benzoyl chloride | 125 μmol, 17.8 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.4 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (8E,12E,14E)-7-Benzoyloxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 6.1 mg, 54% | C(C1=CC=CC=C1)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)OC(C)OCC)(C)OC(C)OCC | C47H74O11
